US09034900B2
Step 1: 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one
A suspension of 4-bromo-2-methylisoquinolin-1-one (100 mg, 0.42 mmol), bis(pinacolato)diboron (214 mg, 0.84 mmol), Pd(dppf)Cl2 (31 mg, 0.04 mmol) and potassium acetate (104 mg, 1.05 mmol) in dioxane (2 mL) under nitrogen was warmed up to 90° C. for 135 minutes. It was then cooled down to room temperature and diluted with ethyl acetate (8 mL). The mixture was washed with aqueous saturated solution of NaHCO3 (8 mL) and brine (8 mL). The organic phase was separated, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by normal phase column chromatography (10-90% EtOAc/Hexanes) to give the title compound (44 mg, 37%). 1H NMR (CDCl3, 400 MHz) δ 8.43 (d, J=7.9 Hz, 1H), 8.40 (dd, J=8.2 Hz, 0.9 Hz, 1H), 7.68 (s, 1H), 7.65 (ddd, J=8.2, 8.2, 1.1 Hz, 1H), 7.46 (t, J=7.5 Hz, 1H), 3.63 (s, 3H), 1.38 (s, 12H). LCMS (M+H)+ 286.

reactant | 4-bromo-2-methylisoquinolin-1-one | 0.42 mmol, 100 mg | BrC1=CN(C(C2=CC=CC=C12)=O)C | C10H8BrNO
reactant | bis(pinacolato)diboron | 0.84 mmol, 214 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.05 mmol, 104 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.04 mmol, 31 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 44 mg, 37% | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
